US08981084B2
(4-(5-Methoxypyridin-2-yl)piperazin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone
This compound was synthesized from 1-(5-methoxypyridin-2-yl)piperazine and 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid as described for example 37 step 3 (60 mg, yield 36%). 1H NMR (400 MHz, MeOD) δ 8.28-8.25 (m, 1H), 8.21-8.20 (m, 1H), 7.87-7.86 (m, 1H), 7.74-7.72 (m, 2H), 7.32-7.29 (dd, J=9.2 Hz, 3.1 Hz, 1H), 6.89-6.86 (d, J=9.3 Hz, 1H), 3.93 (m, 2H), 3.80 (s, 3H), 3.62 (m, 2H), 3.55 (m, 2H), 3.43 (m, 2H). MS (ESI) m/z: Calculated for C20H18F3N6O3: 433.14. found: 434.0 (M+H)+

reactant | 1-(5-methoxypyridin-2-yl)piperazine | COC=1C=CC(=NC1)N1CCNCC1 | C10H15N3O
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
product | (4-(5-Methoxypyridin-2-yl)piperazin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone | yield 36% | COC=1C=CC(=NC1)N1CCN(CC1)C(=O)C1=CC(=CC=C1)C1=NOC(=N1)C(F)(F)F | C20H18F3N5O3
